US07863271B2
To a-30° C. solution of N-t-Boc-L-alanine (20.0 g, 0.106 mol) and triethylamine (16.8 mL, 0.119 mol) in THF (300 mL) was added isobutyl chloroformate (15.0 mL, 0.114 mol) drop wise. The reaction mixture was warmed to ambient temperature over 1.25 h and then stirred for 3.5 h. The reaction mixture was cooled to 0° C. and a solution of N-methylbenzylamine (14.3 mL, 0.111 mol) and triethylamine (18.8 mL, 0.134 mol) in THF (60 mL) was added drop wise. The reaction mixture was allowed to warm to ambient temperature. After 16 h, saturated NaHCO3 (200 mL) was added and most of the THF was removed under reduced pressure. The remaining aqueous layer was extracted with EtOAc (2×250 mL). The combined organic layers were washed with brine (100 mL), dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography (silica gel, 10% EtOAc in hexanes to 40% EtOAc in hexanes) gave (S)-tert-butyl 1-(benzyl(methyl)amino)-1-oxopropan-2-ylcarbamate (26.3 g, 85%) as a colorless oil. 1H NMR consistent.

reactant | N-t-Boc-L-alanine | 0.106 mol, 20.0 g | C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C8H15NO4
reactant | triethylamine | 0.119 mol, 16.8 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.114 mol, 15.0 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylbenzylamine | 0.111 mol, 14.3 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 0.134 mol, 18.8 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(benzyl(methyl)amino)-1-oxopropan-2-ylcarbamate | 26.3 g, 85% | C(C1=CC=CC=C1)N(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C16H24N2O3
